US07714168B2
According to the same method as that of Production Example 1, 2-methylpropylamine was used in place of 2,2-dimethylpropylamine, 4-(2-propynyloxy)-3,5-dimethoxybenzoyl chloride was used in place of 4-(2-propynyloxy)-3-methoxybenzoyl chloride to obtain N-(2-methylpropyl)-4-(2-propynyloxy)-3,5-dimethoxybenzamide (hereinafter, described as the compound 21 of the present invention) represented by the formula:

reactant | 2-methylpropylamine | CC(CN)C | C4H11N
reactant | 4-(2-propynyloxy)-3,5-dimethoxybenzoyl chloride | C(C#C)OC1=C(C=C(C(=O)Cl)C=C1OC)OC | C12H11ClO4
product | N-(2-methylpropyl)-4-(2-propynyloxy)-3,5-dimethoxybenzamide | CC(CNC(C1=CC(=C(C(=C1)OC)OCC#C)OC)=O)C | C16H21NO4
